US06329389B1
(4-Biphenylyloxy)acetic acid
Sodium hydride (60% dispersion in oil; 0.8 g) was added portionwise to a DMF (10 ml) solution of 4-hydroxybiphenyl (1.7 g) under ice-cooling. The reaction mixture was stirred at room temperature for 30 minutes, to which was added bromoacetic acid (1.4 g). The reaction mixture was further stirred at room temperature for 18 hours, which was poured into water. 2N hydrochloric acid was added to the mixture to adjust the pH to 4, which was extracted with ethyl acetate. The organic layer was washed with water, then dried and concentrated. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/1), and the crude crystals were recrystallized from IPE to obtain the entitled compound (1.5 g).

reactant | Sodium hydride | 0.8 g | [H-].[Na+]
reactant | 4-hydroxybiphenyl | 1.7 g | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | bromoacetic acid | 1.4 g | BrCC(=O)O | C2H3BrO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (4-Biphenylyloxy)acetic acid | 1.5 g | C1(=CC=C(C=C1)OCC(=O)O)C1=CC=CC=C1 | C14H12O3
